US08604083B2
Preparation of (4-(2,6-Difluorobenzyloxy)phenyl)-acetonitrile
To a solution of 4-Hydroxybenzyl cyamide (5 g, 37.5 mmol) and K2CO3 (6.74 g, 48.8 mmol) in dry DMF (20 ml) was added 2,6-Difluorobenzyl bromide (7.77 g, 37.5 mmol). The reaction mixture was stirred for 4 hours at room temperature and concentrated in vacuo. The crude residue was taken in EtOAc and washed with water and brine. The aqueous layer washed one more time with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated to provide the title compound as a white solid.

reactant | K2CO3 | 48.8 mmol, 6.74 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,6-Difluorobenzyl bromide | 37.5 mmol, 7.77 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (4-(2,6-Difluorobenzyloxy)phenyl)-acetonitrile | FC1=C(COC2=CC=C(C=C2)CC#N)C(=CC=C1)F | C15H11F2NO
